US05464796
d) 2,5-Dichloro-3,4,6-trifluorobenzoyl chloride
160 ml of thionyl chloride are initially introduced into the reaction vessel at room temperature. 36.8 g (0.15 mol) of 2,5-dichloro-3,4,6-trifluorobenzoic acid are added in portions, while stirring. After addition of 0.5 ml of dimethylformamide, the mixture is slowly heated to 80°-90° C. and is stirred at this temperature for 5 hours. It is then concentrated and the residue is distilled under a high vacuum.

reactant | thionyl chloride | 160 ml | S(=O)(Cl)Cl | Cl2OS
reactant | 2,5-dichloro-3,4,6-trifluorobenzoic acid | 0.15 mol, 36.8 g | ClC1=C(C(=O)O)C(=C(C(=C1F)F)Cl)F | C7HCl2F3O2
solvent | dimethylformamide | 0.5 ml | CN(C=O)C | C3H7NO
product | 2,5-Dichloro-3,4,6-trifluorobenzoyl chloride | ClC1=C(C(=O)Cl)C(=C(C(=C1F)F)Cl)F | C7Cl3F3O
